US07297704B2
1,2,3,4-Tetrahydrodibenzo[b,d]thiophene-2-carboxylic acid (intermediate 9)
To a solution of ethyl 1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylate (1.15 g, 4.42 mmol) in EtOH (50 mL) was added KOH (0.4 g, 7.07 mmol). The reaction was stirred at 40° C. for 3 hours. After cooling to room temperature, the mixture was extracted with ether. The ether layer was washed with aqueous Na2CO3. The combined aqueous layers were acidified to pH 2 with conc. HCl and extracted with EtOAc. The EtOAc layer was washed with brine, then was dried over MgSO4 and concentrated to dryness to afford the 0.77 g (75%) of the title compound as a white solid: mp 202-203° C., MS (−) 231 (M−H)−.

reactant | ethyl 1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylate | 4.42 mmol, 1.15 g | C1C(CCC=2SC3=C(C21)C=CC=C3)C(=O)OCC | C15H16O2S
reactant | KOH | 7.07 mmol, 0.4 g | [OH-].[K+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1,2,3,4-Tetrahydrodibenzo[b,d]thiophene-2-carboxylic acid | 0.77 g, 75% | C1C(CCC=2SC3=C(C21)C=CC=C3)C(=O)O | C13H12O2S
